US08609656B2
(9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]-phenyl}-9H-purin-6-yl)carbamic acid allyl ester (Table 1, Compound No. 114)
The title compound can be synthesized from 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride and allyl chloroformate by using the same method as in Example 107.

reactant | 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | allyl chloroformate | ClC(=O)OCC=C | C4H5ClO2
product | (9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]-phenyl}-9H-purin-6-yl)carbamic acid allyl ester | C(C=C)OC(NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C23H17ClF3N7O3
